US03941806
7-Benzoly-5-chloroindoline was prepared by treating 1-acetyl-5-chloroindoline with benzoyl chloride at 120°-175°C. using zinc chloride as a catalyst. The acetyl group was removed by acid hydrolysis to give the yellow colored 7-benzoyl-5-chloroindoline. The yellow solid melted at 112°-115°C. A mixture melting point with material prepared in Example 2 showed no depression.

reactant | 1-acetyl-5-chloroindoline | C(C)(=O)N1CCC2=CC(=CC=C12)Cl | C10H10ClNO
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 7-benzoyl-5-chloroindoline | C(C1=CC=CC=C1)(=O)C=1C=C(C=C2CCNC12)Cl | C15H12ClNO
